US07820823B2
(3R)3-{4-[(5S)-5-(Acetylaminomethyl)-2-oxo-oxazolidin-3-yl]-2-fluoro-phenylamino}-pyrrolidine-1-carboxylic Acid Tert-Butyl Ester
To a stirred solution of 4.2 g of (3R)-3-{[4-{(5R)-5-azidomethyl-2-oxo-oxazolidin-3-yl}-2-fluoro-phenyl]-benzyl-oxycarbonyl-amino}-pyrrolidine-1-carboxylic acid tert-butyl ester (7.3 mmol) in 50 ml ethyl acetate were added 400 mg of Pd/C 10% and the mixture was stirred under hydrogen over night. The reaction was controlled by TLC. The Pd/C was filtered, the filtrate evaporated to dryness. The residue was dissolved in 5 ml acetic acid and 2 ml acetic anhydride was added. The reaction was stirred at rt for 2 hrs and monitored by TLC. The solvents were evaporated, the residue dissolved in ethyl acetate, washed with water and brine, dried over Mg sulfate, filtered and the filtrate evaporated to dryness.

reactant | (3R)-3-{[4-{(5R)-5-azidomethyl-2-oxo-oxazolidin-3-yl}-2-fluoro-phenyl]-benzyl-oxycarbonyl-amino}-pyrrolidine-1-carboxylic acid tert-butyl ester | 7.3 mmol, 4.2 g | C(C)(C)(C)OC(=O)N1C[C@@H](CC1)N(C(=O)OCC1=CC=CC=C1)C1=C(C=C(C=C1)N1C(O[C@H](C1)CN=[N+]=[N-])=O)F | C27H31FN6O6
reactant | ethyl acetate | 50 ml | C(C)(=O)OCC | C4H8O2
catalyst | Pd/C | 400 mg | [Pd] | Pd
product | (3R)3-{4-[(5S)-5-(Acetylaminomethyl)-2-oxo-oxazolidin-3-yl]-2-fluoro-phenylamino}-pyrrolidine-1-carboxylic Acid Tert-Butyl Ester | C(C)(C)(C)OC(=O)N1C[C@@H](CC1)NC1=C(C=C(C=C1)N1C(O[C@H](C1)CNC(C)=O)=O)F | C21H29FN4O5
